US09428459B2
2-(difluoromethyl)-N-(7,7-dimethyl-5,6,7,8-tetrahydronaphthalen-1-yl)nicotinamide (example 1)
In a round bottom flask, 7,7-dimethyl-5,6,7,8-tetrahydronaphthalen-1-amine (150 mg, 0.86 mmol, 1.0 eq.) was dissolved in 5 ml of THF. Triethylamine (0.104 mg, 1.02 mmol, 1.2 eq) was added followed by a solution of 2-(difluoromethyl)nicotinoyl chloride (180 mg, 0.94 mmol, 1.1 eq) in 1 ml of THF. Stirring was allowed for 2 h at r.t. The reaction was quenched with water, the organic layer extracted with AcOEt, washed with brine and dried over chemelut cartridge. The solvent was removed under vacuum and purification of the crude material by

reactant | 7,7-dimethyl-5,6,7,8-tetrahydronaphthalen-1-amine | 0.86 mmol, 150 mg, 1.0 eq. | CC1(CCC=2C=CC=C(C2C1)N)C | C12H17N
reactant | Triethylamine | 1.02 mmol, 0.104 mg, 1.2 eq | C(C)N(CC)CC | C6H15N
reactant | 2-(difluoromethyl)nicotinoyl chloride | 0.94 mmol, 180 mg, 1.1 eq | FC(C1=C(C(=O)Cl)C=CC=N1)F | C7H4ClF2NO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 2-(difluoromethyl)-N-(7,7-dimethyl-5,6,7,8-tetrahydronaphthalen-1-yl)nicotinamide | FC(C1=C(C(=O)NC2=CC=CC=3CCC(CC23)(C)C)C=CC=N1)F | C19H20F2N2O
